US08293735B2
5-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid amide
To a solution of 5-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester (250 mg, 0.52 mmol) in DCM (4.5 mL) was added TFA (0.5 mL). The reaction mixture stirred at RT for 1 h, then loaded onto an Isolute® SCX-2 cartridge. The cartridge was washed with MeOH then eluted with 2 M NH3 in MeOH, and concentrated in vacuo. The resultant residue was dissolved in DCM (5 mL) and trimethylsilyl isocyanate (139 μL, 1.0 mmol) was added. The reaction mixture was stirred at RT for 1 h, then partitioned between DCM and a saturated aqueous solution of NaHCO3. The organic layer was separated and washed with brine, then dried (Na2SO4) and concentrated in vacuo to give the title compound as a colourless oil (185 mg, 84%).

reactant | 5-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | 0.52 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C22H30ClN5O3S
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | trimethylsilyl isocyanate | 1.0 mmol, 139 μL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | DCM | 4.5 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid amide | 185 mg, 84% | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1C(C2)CN(C1)C(=O)N)N1CCOCC1 | C18H23ClN6O2S
